US05245056
350.1 g of 30 percent sodium methylate solution in methanol were diluted with 550 ml of methanol under nitrogen and while stirring. 264.2 g of dimethyl malonate were added dropwise. After warming the suspension to 40° 321.0 g of 1-bromohexane were added dropwise. After stirring at 40° for 1 hour, under reflux for 2 hours, at 65°-69° for 2.5 hours and cooling the suspension to room temperature water was added and the mixture was stirred. The organic phase was separated. The aqueous phase was extracted with methylene chloride, the combined organic extracts were dried and filtered, the filter cake was washed with methylene chloride and the combined filtrates were concentrated. After distillation of the product there were obtained 329.3 g (78.3%) of dimethyl n-hexylmalonate.

reactant | sodium methylate | 350.1 g | C[O-].[Na+]
reactant | dimethyl malonate | 264.2 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1-bromohexane | 321.0 g | BrCCCCCC | C6H13Br
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 550 ml | CO | CH4O
product | dimethyl n-hexylmalonate | 329.3 g, 78.3% | C(CCCCC)C(C(=O)OC)C(=O)OC | C11H20O4
